US04061761
4-(4-Chloro-3-sulfamoyl-phenyl)-2-cyclopropylimino-3-methyl-1,3-thiazolidine-4-ol-hydrobromide
4.15 g of 2-bromo-4'-chloro-3'-sulfamoylacetophenone were reacted with 1.95 g of 1-cyclopropyl-3-methylthiourea according to the prescription given in Example 23 and the oily precipitate was crystallized with diisopropyl ether.

reactant | 2-bromo-4'-chloro-3'-sulfamoylacetophenone | 4.15 g | BrCC(=O)C1=CC(=C(C=C1)Cl)S(N)(=O)=O | C8H7BrClNO3S
reactant | 1-cyclopropyl-3-methylthiourea | 1.95 g | C1(CC1)NC(=S)NC | C5H10N2S
product | 4-(4-Chloro-3-sulfamoyl-phenyl)-2-cyclopropylimino-3-methyl-1,3-thiazolidine-4-ol-hydrobromide | Br.ClC1=C(C=C(C=C1)C1(N(C(SC1)=NC1CC1)C)O)S(N)(=O)=O | InChI=1S/C13H16ClN3O3S2.BrH/c1-17-12(16-9-3-4-9)21-7-13(17,18)8-2-5-10(14)11(6-8)22(15,19)20;/h2,5-6,9,18H,3-4,7H2,1H3,(H2,15,19,20);1H
